US05166347
Preparation of N-cyano-N'-(3-phenylpropyl)-3-pyridinecarboximidamide (method i)
Isopropyl N-cyano-3-pyridinecarboximidate (0.60 g, 3.2 mmol) was dissolved in methanol (10 ml), and 3-phenylpropylamine (0.47 g, 3.5 mmol) was added. The mixture was stirred at room temperature for 50 minutes. After the reaction was completed, the reaction solution was concentrated under reduced pressure. The residual concentrate thus obtained was subjected to chromatography on a silica gel column (WAKO GEL C-200, 30 g) eluting with chloroform-methanol (100:1). The eluted fractions were concentrated under reduced pressure and crystallized from methanol-diethyl ether to give the title compound (0.67 g, 2.5 mmol, yield: 80%) as colorless needles.

reactant | Isopropyl N-cyano-3-pyridinecarboximidate | 3.2 mmol, 0.60 g | C(#N)N=C(OC(C)C)C=1C=NC=CC1 | C10H11N3O
reactant | 3-phenylpropylamine | 3.5 mmol, 0.47 g | C1(=CC=CC=C1)CCCN | C9H13N
solvent | methanol | 10 ml | CO | CH4O
product | N-cyano-N'-(3-phenylpropyl)-3-pyridinecarboximidamide | 2.5 mmol, 0.67 g, yield: 80% | C(#N)NC(=NCCCC1=CC=CC=C1)C=1C=NC=CC1 | C16H16N4
